US08623859B2
4-methoxy-N,2,6-trimethyl-N-{[4-({4-[(1-methylpiperidin-3-yl)methyl]piperazin-1-yl}carbonyl)furan-2-yl]methyl}benzenesulfonamide
The title compound was prepared according to general procedure AA using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (63 mg, 0.18 mmol), CDI (58 mg, 0.36 mmol) and 1-[(1-methylpiperidin-3-yl)methyl]piperazine (59 mg, 0.30 mmol) in DCE (4.5 mL).

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.18 mmol, 63 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.36 mmol, 58 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[(1-methylpiperidin-3-yl)methyl]piperazine | 0.30 mmol, 59 mg | CN1CC(CCC1)CN1CCNCC1 | C11H23N3
solvent | DCE | 4.5 mL | ClCCCl | C2H4Cl2
product | 4-methoxy-N,2,6-trimethyl-N-{[4-({4-[(1-methylpiperidin-3-yl)methyl]piperazin-1-yl}carbonyl)furan-2-yl]methyl}benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC=C(C1)C(=O)N1CCN(CC1)CC1CN(CCC1)C)C)C | C27H40N4O5S
